US08604034B2
To a chilled solution of methyl 1H-pyrrole-2-carboxylate (1.0 g, 8.0 mmol) in dry DMF (20 mL) was added sodium hydride (60% in mineral oil, 320 mg, 8.0 mmol) portionwise. The mixture was stirred at 0° C. for 1 hour before a solution of 2-bromo-1-(4-hydroxyphenyl)ethanone (780 mg, 3.6 mmol) in DMF (5 mL) was added. The resulting yellow solution was allowed to warm to room temperature. After 2.5 hours the reaction was complete (monitored by LCMS). A saturated aqueous solution of NH4Cl (40 mL) was added and the mixture was extracted with EtOAc (1×20 mL). The organic layer was concentrated in vacuo to yield a residue that was purified by flash chromatography using the (Biotage SP4, 40 g cartridge, 0 to 100% EtOAc gradient in hexane) to give methyl 1-[2-(4-hydroxyphenyl)-2-oxoethyl]-1H-pyrrole-2-carboxylate as a white solid (810 mg, yield 87%).

reactant | methyl 1H-pyrrole-2-carboxylate | 8.0 mmol, 1.0 g | N1C(=CC=C1)C(=O)OC | C6H7NO2
reactant | sodium hydride | 8.0 mmol, 320 mg | [H-].[Na+]
reactant | 2-bromo-1-(4-hydroxyphenyl)ethanone | 3.6 mmol, 780 mg | BrCC(=O)C1=CC=C(C=C1)O | C8H7BrO2
reactant | NH4Cl | 40 mL | [NH4+].[Cl-]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | methyl 1-[2-(4-hydroxyphenyl)-2-oxoethyl]-1H-pyrrole-2-carboxylate | 810 mg, yield 87% | OC1=CC=C(C=C1)C(CN1C(=CC=C1)C(=O)OC)=O | C14H13NO4
